US07960422B2
2-Methyl-5-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyrazine
Methanol (25 mL) was added to a mixture of methyl isothiocyanate (1.052 g, 14.4 mmol) and 5-methylpyrazine-2-carbohydrazide (2.192 g, 14.4 mmol). The resulting mixture was heated at 60° C. for 1 h, and concentrated in vacuo. The residue was dissolved in aqueous sodium hydroxide solution (0.8M, 20 mL, 16 mmol) and the resulting solution was heated at 60° C. for 19 h, then cooled to room temperature. Aq. NaOH (6M, 2.6 mL, 15.6 mmol) was added followed by iodomethane (1.24 mL, 19.8 mmol) in ethanol (31 mL) plus additional water (5 mL rinse) and the resulting mixture was stirred 1 hour at room temperature. The product was partitioned between water (added 30 mL) and dichloromethane (300 mL). The aqueous layer was extracted with dichloromethane (4×100 mL). The combined organic layers were washed with water (75 mL) and brine (75 mL) and dried over sodium sulfate. Removal of the solvent in vacuo followed by flash chromatography (silica gel, 2-3% methanol in dichloromethane) yielded the title compound (2.559 g, 80%).

reactant | methyl isothiocyanate | 14.4 mmol, 1.052 g | CN=C=S | C2H3NS
reactant | 5-methylpyrazine-2-carbohydrazide | 14.4 mmol, 2.192 g | CC=1N=CC(=NC1)C(=O)NN | C6H8N4O
reactant | sodium hydroxide | 16 mmol, 0.8M, 20 mL | [OH-].[Na+]
reactant | NaOH | 15.6 mmol, 6M, 2.6 mL | [OH-].[Na+]
reactant | iodomethane | 19.8 mmol, 1.24 mL | IC | CH3I
solvent | ethanol | 31 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | Methanol | 25 mL | CO | CH4O
product | 2-Methyl-5-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyrazine | 2.559 g, 80% | CC1=NC=C(N=C1)C1=NN=C(N1C)SC | C9H11N5S
